US09079914B2
(1) Synthesis of methyl 5-fluoromethoxypyridine-2-carboxylate
A solution containing fluoromethyl toluene-4-sulfonate (233 mg) in DMF was added to a solution containing methyl 5-hydroxypyridine-2-carboxylate (100 mg) and cesium carbonate (532 mg) in DMF (5 mL). The reaction solution was stirred at 70° C. for 3 h. The reaction solution was cooled to RT. EtOAc and saturated aqueous NH4Cl were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous MgSO4, and the insoluble matter was separated by filtration.

reactant | fluoromethyl toluene-4-sulfonate | 233 mg | C1(=CC=C(C=C1)S(=O)(=O)OCF)C | C8H9FO3S
reactant | methyl 5-hydroxypyridine-2-carboxylate | 100 mg | OC=1C=CC(=NC1)C(=O)OC | C7H7NO3
reactant | cesium carbonate | 532 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-fluoromethoxypyridine-2-carboxylate | FCOC=1C=CC(=NC1)C(=O)OC | C8H8FNO3
